US04122180
A solution of 318 g. of 1-benzyl-4-(1-isoquinolyl)-piperidin-4-ol, obtainable by reacting 1-cyano-2-benzoyl-1,2-dihydroisoquinoline with 1-benzylpiperidin-4-one to give 1-benzyl-4-benzoyloxy-4-(1-isoquinolyl)-piperidine, which is subsequently hydrolyzed in 5 l. of methanol, is hydrogenated on 60 g. of 5% Pd-on-charcoal at 20° under 1 atmosphere of hydrogen. The mixture is filtered and the filtrate is evaporated to give 4-(1-isoquinolyl)-piperidin-4-ol, m.p. 138°-140°.

reactant | 1-benzyl-4-(1-isoquinolyl)-piperidin-4-ol | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=NC=CC2=CC=CC=C12 | C21H22N2O
reactant | 1-cyano-2-benzoyl-1,2-dihydroisoquinoline | C(#N)C1N(C=CC2=CC=CC=C12)C(C1=CC=CC=C1)=O | C17H12N2O
reactant | 1-benzylpiperidin-4-one | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
product | 1-benzyl-4-benzoyloxy-4-(1-isoquinolyl)-piperidine | C(C1=CC=CC=C1)N1CCC(CC1)(C1=NC=CC2=CC=CC=C12)OC(C1=CC=CC=C1)=O | C28H26N2O2
